US07199154B2
Step 4: (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[6-(nitrooxy)hexyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid
A solution of 4.5 g of (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl 6-(nitrooxy)hexyl carbonate in 100 mL of dichloromethane was treated with 4.5 g of Dess-Martin reagent at 25° C. for 75 min. The reaction was quenched by 1 mL of water, and stirred at RT for 30 min. Then the mixture was filtered through a pad of silica gel and evaporated. The crude thus obtained was dissolved in a solvent mixture of THF and t-BuOH (100 mL/100 mL). To the resulting solution was added 5.3 mL of 2-methyl-2-butene followed by the addition of 13 mL of phosphoric acid (1.2 M soln) and 13 mL of NaClO2 (1M soln). The resulting mixture was stirred at RT for 30 min. The organic phase was separated and the aqueous phase was extracted with EtOAc. The organic phases were combined, dried over Na2SO4, filtered, and then evaporated. The crude was purified by flash chromatography to afford titled compound as a white solid. 1H NMR (acetone-d6, 500 MHz): δ 11.8 (bs, 1 H), 7.76 (d, 2 H), 7.43 (d, 2 H), 7.17–7.11 (m, 5 H), 5.34 (s, 2 H), 4.52 (t, 2 H), 4.04 (t, 2 H), 3.05 (s, 3 H), 1.71 (m, 2 H), 1.57 (m, 2 H), 1.40 (m, 2 H), 1.34 (m, 2 H).

reactant | (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl 6-(nitrooxy)hexyl carbonate | 4.5 g | C(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)(OCCCCCCO[N+](=O)[O-])=O | C24H29NO9S
reactant | Dess-Martin reagent | 4.5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-methyl-2-butene | 5.3 mL | CC(C)=CC | C5H10
reactant | phosphoric acid | 1.2 M, 13 mL | P(O)(O)(O)=O | H3O4P
reactant | NaClO2 | 1M, 13 mL | [O-]Cl=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | t-BuOH | 100 mL | CC(C)(C)O | C4H10O
product | (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[6-(nitrooxy)hexyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid | CS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)O)\C1=CC=CC=C1)/COC(=O)OCCCCCCO[N+](=O)[O-] | C24H27NO10S
